US06962933B1
4-(4-fluorophenyl)-2-phenyl-5-(4-pyridyl)-1,3-thiazole
A solution of 2-bromo-1-(4-fluorophenyl)-2-(4-pyridyl)ethanone hydrobromide (1.6 g, 4.1 mmol) and thiobenzamide (0.57 g, 4.2 mmol) in N,N-dimethylformamide (5 mL) was stirred at room temperature for 14 h. To the reaction mixture was poured aqueous sodium hydrogencarbonate solution and the precipitated solid was collected by filtration. The obtained solid was washed with water and dried. The crude crystals were recrystallized from ethyl acetate to give the title compound (0.27 g, yield 19%).

reactant | 2-bromo-1-(4-fluorophenyl)-2-(4-pyridyl)ethanone hydrobromide | 4.1 mmol, 1.6 g | Br.BrC(C(=O)C1=CC=C(C=C1)F)C1=CC=NC=C1
reactant | 4-methyl(thiobenzamide) | 4.2 mmol, 0.57 g | CC1=CC=C(C(=S)N)C=C1 | C8H9NS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-(4-fluorophenyl)-2-phenyl-5-(4-pyridyl)-1,3-thiazole | 0.27 g, yield 19% | FC1=CC=C(C=C1)C=1N=C(SC1C1=CC=NC=C1)C1=CC=CC=C1 | C20H13FN2S
